US04454274
Into a one liter, four-necked, round bottom flask equipped with stirrer, condenser, and thermometer, 200.0 parts of pyridine and 31.75 parts of 4-t-butylcyclohexanol were mixed under a nitrogen blanket and chilled to 0° C. with an ice water bath. To this solution 47.75 parts of p-toluenesulfonyl chloride were added in portions over thirty minutes. The solution was stirred for one hour at 0° C. and then allowed to stand for twenty-four hours at 15° C. The mixture was poured into one liter of ice water and subsequently extracted with 700 parts of methylene chloride. The organic layer was washed successively with cold 6 N sulfuric acid (until the water layer was acidic to pH paper), dilute sodium bicarbonate (three times with 500 part-portions), and water (twice with 500 part-portions). It was then dried over sodium sulfate, filtered, and the solvent removed in vacuo to yield the 4-t-butylcyclohexyl para-toluenesulfonate as a pale yellow liquid which solidified on standing.

reactant | 4-t-butylcyclohexanol | C(C)(C)(C)C1CCC(CC1)O | C10H20O
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-t-butylcyclohexyl para-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC1CCC(CC1)C(C)(C)C)C | C17H26O3S
